US07601716B2
1-Benzyl-7-pyridin-3-yl-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (100 mg) was reacted with 3-pyridine boronic acid as in General Procedure 4A to give the title compound as a light yellow solid (60% yield). M.p. 58° C., LCMS: m/z=317.16 (M+H+), 1H-NMR (CD3OD, 400 MHz) δ 4.42 (s, 2H), 7.22-7.31 (m, 2H), 7.32-7.38 (m, 4H), 7.50 (s, 1H), 7.85-7.92 (m, 1H), 8.02 (s, 1H), 8.39 (d, J=8.1 Hz, 1H), 8.65-8.75 (m, 1H), 8.75-8.90 (m, 1H).

reactant | 1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 100 mg | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)I | C14H12IN3O
reactant | 3-pyridine boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 1-Benzyl-7-pyridin-3-yl-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 60% yield | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)C=2C=NC=CC2 | C19H16N4O
